US04321372
4-(2-methyl-2-propyl)thiazol-2-ylcarbamoylcarboxylic Acid
Ethyl 4-(2-methyl-2-propyl)thiazol-2-ylcarbamoylcarboxylate (1.3 g., 5 mmoles) was combined with 40 ml. of water, 20 ml. of ethanol and 5 ml. of 1 N potassium carbonate and the mixture heated on a steam bath for 10 minutes. Completion of reaction was determined by tlc. The solution was stripped of ethanol and the aqueous residue clarified by filtration. The filtrate was cooled in an ice-water bath and the product (1.02 g.) precipitated by acidification with 1 N hydrochloric acid. Recrystallization from ethyl acetate provided purified 4-(2-methyl-2-propyl)thiazol-2-ylcarbamoylcarboxylic acid [0.72 g.; m.p. 198°-200° C. dec.)].

reactant | Ethyl 4-(2-methyl-2-propyl)thiazol-2-ylcarbamoylcarboxylate | 5 mmoles, 1.3 g | CC(C)(C)C=1N=C(SC1)NC(=O)C(=O)OCC | C11H16N2O3S
reactant | water | O | H2O
reactant | potassium carbonate | 1 N | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 4-(2-methyl-2-propyl)thiazol-2-ylcarbamoylcarboxylic Acid | CC(C)(C)C=1N=C(SC1)NC(=O)C(=O)O | C9H12N2O3S
